US04913728
Dimethylcyclohexylamine (22.86 g., 0.18 mole) in methylene chloride (125 ml.) is added dropwise to a stirred solution of 2-chloro-4-mercaptoaniline (27.0 g., 0.17 mole) and tert-butyl bromide (22.86 g., 0.18 mole) in methylene chloride (125 ml.) and the mixture is allowed to stir at room temperature for about 68 hours. An additional quantity of dimethylcyclohexylamine (2.3 g.) and tert-butyl bromide (2.5 g., 0.018 mole) is added and stirring is continued overnight. The reaction is poured into water, and the product is extracted with methylene chloride. The combined extracts are washed with dilute hydrochloric acid, water and dried. Removal of the drying agent and methylene chloride gives impure 2-chloro-4-tert-butylthioaniline as a beige solid.

reactant | Dimethylcyclohexylamine | 0.18 mole, 22.86 g | CN(C1CCCCC1)C | C8H17N
reactant | 2-chloro-4-mercaptoaniline | 0.17 mole, 27.0 g | ClC1=C(N)C=CC(=C1)S | C6H6ClNS
reactant | tert-butyl bromide | 0.18 mole, 22.86 g | C(C)(C)(C)Br | C4H9Br
reactant | dimethylcyclohexylamine | 2.3 g | CN(C1CCCCC1)C | C8H17N
reactant | tert-butyl bromide | 0.018 mole, 2.5 g | C(C)(C)(C)Br | C4H9Br
reactant | water | O | H2O
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-tert-butylthioaniline | ClC1=C(N)C=CC(=C1)SC(C)(C)C | C10H14ClNS
